Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
simvastatin / Ciprofloxacin / Glumetza / lisinopril / 
Methotrexate
 
Attending: ___
 
___ Complaint:
fever, nightsweats, cough
 
Major Surgical or Invasive Procedure:
none.

 
History of Present Illness:
Mr. ___ is a ___ yo M w/ Burk___'s lymphoma dx in ___ w 
progressive disease. On ___ Mr ___ was noticed to have 
increased LDH to 1200. A bone marrow biopsy was performed and 
showed extensive involvement with Burk___'s lymphoma. On ___ he 
received the ___ cycle of IVAC (30% dose reduced) with
improvement of his B symptoms and normalization of the LDH. 
Despite the dose reduction C3 IVAC was again complicated by 
severe and prolonged myelosuppression, and subdural hematoma. 
The patient remains thrombocytopenic, requiring almost daily 
transfusion.
.
Patient was recently admitted ___ with diarrhea and N/V 
and then on ___ s/p fall, vertigo at home found to have a 
new frontal SAH. Patient was discharged on ___ to attend a 
family event and presented to f/u appointment with Dr. ___ 
___ ___, D22 C2 IVAC. He remains fatigued and overall weak, 
the dizziness has resolved. In the last 2 days he has developed 
night sweats, cough, fever up to 100.5. Denies SOB. Complains of 
postnasal drip. Denies HA. Had some nausea yesterday, no 
vomiting or diarrhea. Has a good appetite and is eating ok. LDH 
today is up to 1600.
. 
ROS: as above. Otherwise negative.  
.  
Remainder of history has been compiled via the OMR and confirmed 
with the patient. Changes where noted.  

 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
___: numbness and pain right jaw and chin, night sweats,  
right neck mass and weight loss.  
- ___ PET CT with FDG avid R neck mass and numerous liver  
lesions. Biopsy of the neck mass c/w aggressive B cell  
lymphoma. ECHO with EF 55%.  
- ___ ___ revealed hypercellular marrow with >95%  
replacement with high grade B cell lymphoma. M:E ratio cannot be 
 
assessed. Flow cytometry showed monotypic large B cells, kappa  
light chain restricted, CD10+, CD19+, CD20+ bright, CD22+, CD 
38+  
bright, FMC7+, CD5-, CD11c-, CD25-, CD103-. Cytogenetics with  
t(8:14) cMYC-IgH. Consistent with involvement by ___'s  
lymphoma.  
- ___ C1D1 R-CHOP in outside hospital(rituximab 750 mg,  
cyclophosphamide 1500 mg, doxorubicin 100 mg, vincristine 2 mg,  

dexamethasone 8 mg) with Neulasta on D2.  
- ___ IT cytarabine  
- ___ high dose methotrexate (3500 mg/m2), complicated by acute  

kidney injury  
- ___ Rituximab 100 mg  
- ___ C1 EPOCH (Etoposide 45 mg/m2 D1-4, Doxorubicin 10 mg/m2  
D1-4, Vincristine 0.4 mg/m2 D1-4, Cyclophosphamide 750 mg/m2 D5) 
 
- ___ Rituximab 375 mg/m2  
- ___ C2 EPOCH (Etoposide 60 mg/m2 D1-4, Doxorubicin 12 mg/m2  

D1-4, Vincristine 0.4 mg/m2 D1-4, Cyclophosphamide 900 mg/m2 D5) 
 
- ___ IT cytarabine  
- ___ C3 EPOCH (Etoposide 70 mg/m2 D1-4, Doxorubicin 12  
mg/m2 D1-4, Vincristine 0.4 mg/m2 D1-4, Cyclophosphamide 1050  
mg/m2 D1)  
- ___ IT methotrexate  
- ___ C4 DA-EPOCH (Etoposide 60 mg/m2 D1-4, Doxorubicin 
10  
mg/m2 D1-4, Vincristine 0.3 mg/m2 D1-4, Cyclophosphamide 900  
mg/m2 D5)  
- ___ Rituximab  
- ___ PET-CT disease progression  
- ___ Rituximab 375 mg/m2  
- ___ C1 IVAC, IT MTX on ___  
- ___ Rituxan  
- ___ C2 IVAC, IT MTX on ___  
- ___ ___ shows recurrence of disease in marrow  
- ___ C3 IVAC, no IT MTX  
.  
PAST MEDICAL HISTORY:  
DM  
HTN  
sarcoid  
ischemic colitis  
hyperlipidemia  

 
Social History:
___
Family History:
Sister with bone cancer, sister with bilateral breast cancer, 
brother with unspecified cancer, heart disease in father. Son 
recently diagnosed with lymphoma, over ___.  

 
Physical Exam:
Admission PEx: 
Vitals: 97.5  143/72  85  18  97%RA
Thin man, in no acute distress, AOx3, mood and affect
appropriate. 
HEENT: oral mucosa moist with no lesions 
HEART: regular, RRR, S1-S2, no M
LUNG: CTA bil, decreased breath sounds to the left middle field,
no dullness to percussion, no wheezes, rales or rhonchi
ABDOMEN: soft, non tender, non distended, no masses or
organomegaly
EXTR: no edema, good perfusion
SKIN: left arm there is a 5 cm subcutaneous nodul with overlying
erythema
LYMPH: no obvious lymphadenopathy
.
Discharge PEx:
Vitals: 96.9  128/72  90  18  93%RA
BS: 158, 197, 254, 251
Gen: in no acute distress, AOx3, mood and affect appropriate. 
HEENT: oral mucosa moist with no lesions 
HEART: regular, RRR, S1-S2, no M
LUNG: CTA bil, decreased breath sounds at lower lobes, crackles 
at RML,
no dullness to percussion, rales or rhonchi, mild exp wheeze 
scattered throughout lung fields.
ABDOMEN: soft, non tender, non distended, no masses or
organomegaly
EXTR: no edema, good perfusion
SKIN: left arm there is a 2-3 cm subcutaneous nodule with 
overlying
erythema, improved greatly from admission (5 cm, more 
erythematous)
LYMPH: no obvious lymphadenopathy

 
Pertinent Results:
Labs on Admission:

___ 08:45AM BLOOD WBC-1.7* RBC-3.20* Hgb-9.6* Hct-26.8* 
MCV-84 MCH-30.1 MCHC-35.8* RDW-15.5 Plt Ct-34*
___ 08:45AM BLOOD Neuts-63 Bands-7* Lymphs-15* Monos-5 
Eos-0 Baso-0 ___ Metas-6* Myelos-2* Promyel-2*
___ 08:45AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-OCCASIONAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL 
Tear Dr-OCCASIONAL
___ 06:21AM BLOOD ___ PTT-24.7* ___
___ 05:33PM BLOOD ___
___ 12:00AM BLOOD ___ ___
___ 08:45AM BLOOD UreaN-17 Creat-0.8 Na-141 K-3.8 Cl-98 
HCO3-29 AnGap-18
___ 08:45AM BLOOD ALT-16 AST-17 LD(LDH)-1600* AlkPhos-108 
TotBili-0.3
___ 08:45AM BLOOD Albumin-4.1 Calcium-9.2 Phos-1.6* Mg-1.4*
___ 05:33AM BLOOD Vanco-17.5
___ 06:10AM BLOOD Vanco-19.7

Urine: 
___ 10:18PM URINE Color-Straw Appear-Clear Sp ___
___ 10:18PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 10:18PM URINE RBC-2 WBC-0 Bacteri-FEW Yeast-NONE Epi-0
___ 10:18PM URINE Mucous-RARE
___ 10:18PM URINE

Labs on Discharge:

___ 12:00AM BLOOD WBC-1.2* RBC-2.51* Hgb-7.9* Hct-21.1* 
MCV-84 MCH-31.2 MCHC-37.1* RDW-15.5 Plt Ct-30*
___ 12:00AM BLOOD Neuts-61 Bands-3 Lymphs-11* Monos-3 Eos-0 
Baso-0 ___ Myelos-0 Other-22*
___ 12:00AM BLOOD Hypochr-1+ Anisocy-1+ Poiklo-1+ 
Macrocy-NORMAL Microcy-1+ Polychr-NORMAL Ovalocy-OCCASIONAL Tear 
Dr-OCCASIONAL
___ 07:40AM BLOOD ___ PTT-23.1* ___
___ 12:00AM BLOOD Glucose-180* UreaN-21* Creat-0.7 Na-140 
K-3.6 Cl-101 HCO3-29 AnGap-14
___ 12:00AM BLOOD ALT-22 AST-30 LD(LDH)-4335* AlkPhos-81 
TotBili-0.2
___ 07:40AM BLOOD Calcium-8.2* Phos-2.2* UricAcd-4.6

Micro:
C diff: +
Urine cx negative
Bld cx all NGTD.

Imaging
CXR:
a/p: Bulkly right hilar adenopathy, as before. Minimal 
heterogenous opacity at the right medial lung base could be 
projectional; a lateral radiograph could left exclude an 
infectious process in this region. Otherwise, clear lungs.
.
Lateral film: Lateral view suggests patchy opacity in a lower 
lobe, consistent with a pneumonic infiltrate and there is 
minimal atelectasis in the middle lobe. However, the appearance 
is similar to ___. Again seen is background hyperinflation, 
with eventrated right hemidiaphragm.  

 
Brief Hospital Course:
Mr. ___ is a ___ yo M w/ Burk___'s lymphoma, dx ___ w 
progressive disease (LDH 1600) despite recently completion of C3 
IVAC (reduced intensity) on ___ and was just recently 
hospitalized ___ with diarrhea & ___ s/p fall 
at home with found to have new SDH, admitted for treatment of 
RML PNA, another round of low dose chemo (cytuxan/vincristine), 
and treated for C diff infection. Patient was transitioned to 
___ Hospice care upon discharge to home.  
.  
#. ___'s Lymphoma - BMBx during previous admission showed 
recurrence of disease in the marrow. During clinic visit prior 
to admission, heme onc team discussed with the patient and his 
wife the severity of his condition and the fact that his disease 
is rapidly progressing. The patient had severe complications 
from the treatment and we explained that additional aggressive 
chemotherapy could be actually harmful. The patient clearly 
understand the situation, he is interested in pursuing any only 
safe measure/treatment that could improve his quality of life 
along with his survival. Patient was given steroids, 
vincristine/cyclophosphamide, and transfusions for HCT < 22 or 
Plt < 50. Patient has been tolerating regimen but LDH continues 
to climb to the 4000s. Patient does respond to the steroids, 
however, and is in good spirits and feeling good. Patient will 
be discharged home with services from ALL ___ hospice. 
-We have continued his HSV and PCP ppx but stopped voriconazole.
-dexamethasone 8mg daily
-dialudid 2mg prn pain
-ativan 0.5mg prn anxiety, insomnia
-zofran prn nausea
.
# PNA: Patient found to have RML PNA, finished course of 
antibiotics and symptoms improving, no fevers since admission. 
.
# C diff: on PO vancomycin, will go home with PO vanc from 
compound pharmacy.
.  
# DMII - Sugars were higher after starting steroids, held home 
medications and covered with ISS while in patient. Will resume 
home meds on d/c. 
.  
# Hypertension - Holding home medications as patient has been 
made CMO and concern for hypotension/falls. 
.  
Code status: DNR/DNI, CMO
.
Transitional Issues:
-Patient to f/u with Dr. ___ on ___ AM; someone from his 
office will call Mrs. ___ re: appt time.
-Patient has open appointment with Dr. ___ come in any 
time for continued chemo or any other concerns.
 
Medications on Admission:
1. acyclovir 400 mg Tablet Sig: One (1) Tablet PO Q8H 
2. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for Pain.  
4. prochlorperazine maleate 10 mg Tablet Sig: One (1) Tablet PO 
Q6H (every 6 hours) as needed for Nausea.  
5. sulfamethoxazole-trimethoprim 400-80 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
6. voriconazole 200 mg Tablet Sig: One (1) Tablet PO Q24H 
7. prednisone 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 

8. calcium carbonate 200 mg calcium (500 mg) Tablet, Chewable 
Sig: One (1) Tablet, Chewable PO TID (3 times a day).  
9. cyanocobalamin (vitamin B-12) 100 mcg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
10. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 

Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
11. filgrastim 480 mcg/1.6 mL Solution Sig: One (1) injection 
Injection Q24H (every 24 hours).  
12. trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for insomnia.  
13. metformin 500 mg Tablet Sig: One (1) Tablet PO twice a day.
 
Discharge Medications:
1. vancomycin oral liquid  Sig: Two Hundred Fifty (250) mg/5mL  
four times a day for 5 days.
Disp:*qs qs* Refills:*2*
2. Dilaudid 2 mg Tablet Sig: One (1) Tablet PO every ___ hours 
as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
3. dexamethasone 2 mg Tablet Sig: Two (2) Tablet PO twice a day.
Disp:*120 Tablet(s)* Refills:*0*
4. Zofran 8 mg Tablet Sig: One (1) Tablet PO every eight (8) 
hours as needed for nausea.
Disp:*qs Tablet(s)* Refills:*0*
5. Ativan 0.5 mg Tablet Sig: One (1) Tablet PO every ___ hours 
as needed for anxiety, nausea.
Disp:*qs Tablet(s)* Refills:*0*
6. acyclovir 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours). Tablet(s) 
7. sulfamethoxazole-trimethoprim 800-160 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
8. dextromethorphan-guaifenesin ___ mg/5 mL Syrup Sig: ___ 
MLs PO Q4H (every 4 hours) as needed for cough.
Disp:*qs ML(s)* Refills:*0*
9. zolpidem 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for insomnia.  
10. metformin 500 mg Tablet Sig: 1.5 Tablets PO twice a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
burkitt's lymphoma 
pneumonia 
c diff 
thrombocytopenia 
anemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___ ___. You were admitted to the hospital for 
treatment of pneumonia, c diff infection, chemotherapy, and 
supportive therapy with steroids and transfusions. Your symptoms 
of cough and fevers have improved, as well as your fatigue and 
nightsweats from the lymphoma. We have set up for you to go home 
with hospice support & follow up appointments with your primary 
oncologist, Dr. ___ as well as Dr. ___ below.
 
Followup Instructions:
___